Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
intraparenchymal hemorrhage
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ found down unresponsive with coffee-ground emesis by family.
Last seen last evening. Taken to an OSH where imaging revealed a
large R IPH with shift. Per ER report, she was responsive but
confused. She was given Keppra and intubated for airway
protection. 

In brief, this patient is a ___ ___ with HTN and 
s/p remote resection of mass on L side of head (daughter unsure 
what it was but states that it is benign and has been followed 
at ___. who was initially found down and unresponsive in the 
bathroom with coffee ground emesis. She lives with her brother 
who heard her fall in the bathroom. She had fallen onto the 
ground in front of the door so he was unable to get to her. He 
could hear her moaning, but she was not speaking. It is unclear 
if she ever lost consciousness. EMS arrived approximately 30 
minutes after she fell and brought her to ___. She 
was given Keppra and intubated for airway protection and found 
on CT head to have a large intraparenchymal hemorrhage with an 8 
mm midline shift. She was transferred to ___ on ___ for 
emergent neurosurgical evaluation.
 
Past Medical History:
HTN, benign brain mass resected in past
 
Social History:
___
Family History:
No family history of strokes
Niece - ovarian cancer
Brother - lung cancer (deceased, smoker)
Brother - colon cancer
Brother - ___
 
Physical Exam:
==============
ON ADMISSION
==============
PHYSICAL EXAM:
Gen: WD/WN, NAD, intubated.

Neuro:
Off sedation, opens eyes to noxious, no commands, RUE localizes
briskly, LUE no movement, BLE withdraw R>L. Pupils 2mm reactive,
+ R corneal, + gag, is over breathing vent. 

================================
ON TRANSFER TO MEDICINE SERVICE
================================
Vitals-  Tmax 100.3, Tcurrent  98.4, BP 114/90 (range 
114-126/51-90), 
General- Lying in bed, following commands (sticks out tongue, 
shows 2 fingers with R hand, lifts R leg)  
HEENT- scar on L side of scalp behind ear from prior surgical 
resection of benign tumor, PERRL, sclera anicteric, MMM, can't 
open eyes, at baseline her L eye is ptotic as a complication 
from a prior surgery. Hearing in L ear also decreased from the 
same surgery.  
Neck- supple, JVP not elevated, no LAD  
Lungs- diffuse coarse breath sounds laterally and anteriorly, 
prominent upper airway sounds from secretions  
CV- Regular rate and rhythm, normal S1 + S2, difficult to 
appreciate any murmurs or rubs because of upper airway noise
Abdomen- normal active bowel sounds, soft, non-tender, 
non-distended 
GU- 
Ext- warm, well perfused, no clubbing, cyanosis or edema  
Neuro- 
   - following commands - sticking out tongue, raising two 
fingers, squeezing hand
   - strength: R hand ___, L arm ___, R leg ___, L leg ___
   - reflexes: R biceps 2, L biceps 3, R quadriceps 2, L 
quadriceps 3
   - primitive reflexes: + L Babinski, no grasp reflex, no snout 
reflex
   - CN: II - unable to assess, III/IV/VI - both eyelids closed, 
unable to open, both eyes are midline when eyelids opened 
manually, PERRLA V - unable to assess, patient can't speak so 
cannot evaluate sensation, VII - able to raise eyebrows, 
VIII/IX/X - unable to assess, XI - was attempting to turn head, 
XII - able to protrude tongue, tongue was midline, no deviation 
to either side.

==============
ON DISCHARGE
==============
Vitals:  CMO, not being measured
General:  Lying in bed, appears comfortable
HEENT:  normocephalic, atraumatic
Lungs:  prominent upper airway sounds from secretions 
CV:    RRR, no murmurs, rubs or gallops
Ext:  cool to the touch
Neuro:  unable to participate in exam
 
Pertinent Results:
ADMISSION LABS
======================

___ 01:00PM BLOOD WBC-15.1* RBC-3.60* Hgb-11.3 Hct-34.9 
MCV-97 MCH-31.4 MCHC-32.4 RDW-13.7 RDWSD-49.1* Plt ___
___ 01:00PM BLOOD Neuts-88.2* Lymphs-4.4* Monos-6.7 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-13.35* AbsLymp-0.66* 
AbsMono-1.02* AbsEos-0.00* AbsBaso-0.03
___ 01:00PM BLOOD ___ PTT-23.2* ___
___ 01:00PM BLOOD Glucose-143* UreaN-14 Creat-0.8 Na-142 
K-4.0 Cl-107 HCO3-23 AnGap-16
___ 01:00PM BLOOD CK(CPK)-716*
___ 01:00PM BLOOD CK-MB-12* MB Indx-1.7 cTropnT-0.14*
___ 01:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:44PM BLOOD Type-ART Tidal V-554 PEEP-5 FiO2-50 
pO2-192* pCO2-43 pH-7.37 calTCO2-26 Base XS-0 Intubat-INTUBATED 
Vent-SPONTANEOU

INTERVAL LABS
====================
___ 01:25PM BLOOD CK-MB-11* MB Indx-0.8 cTropnT-0.18*

DISCHARGE LABS
===================
___ 01:25PM BLOOD WBC-12.0* RBC-3.44* Hgb-10.9* Hct-33.2* 
MCV-97 MCH-31.7 MCHC-32.8 RDW-14.5 RDWSD-51.0* Plt ___
___ 01:25PM BLOOD Plt ___
___ 01:25PM BLOOD ___ PTT-24.1* ___
___ 01:25PM BLOOD Glucose-110* UreaN-13 Creat-0.8 Na-147* 
K-3.9 Cl-112* HCO3-25 AnGap-14
___ 01:25PM BLOOD ALT-19 AST-50* LD(LDH)-279* CK(CPK)-1419* 
AlkPhos-62 TotBili-0.5
___ 07:13PM BLOOD CK-MB-8 cTropnT-0.14*
___ 01:25PM BLOOD Albumin-3.7 Calcium-8.6 Phos-2.3* Mg-2.0

 
Brief Hospital Course:
___ ___ with HTN and s/p resection of benign mass 
(uncertain what) on L side of head ___ years ago who presents with 
IPH following a fall and aspiration pneumonia, now on comfort 
measures only.

#Intraparenchymal hemorrhage.  Patient ___ transferred to 
___ from ___ for neurosurgical evaluation. The 
neurosurgical team evaluated the patient and her imaging and 
determined that she was not a surgical candidate. the patient's 
neurological exam was poor, so the family made the decision to 
make her DNR/DNI and CMO and terminally extubated her on ___. 
After she was extubated her neurological exam initially 
improved. She was able to respond to her name, move her R arm 
and leg, and follow commands. At that point the family decided 
to lift the CMO order and the patient was transferred to a 
general medicine team. Neurology was consulted.  Given the large 
size and severity of the intraparenchymal hemorrhage, her 
significant cerebral edema (with anticipated development of 
worsening edema), and poor neurologic exam the patient was 
ultimately transitioned to comfort measures only.  

#) Aspiration-type PNA.  The patient was having trouble 
protecting her airway following the intraparenchymal hemorrhage. 
A chest x-ray obtained on ___ showed a patchy area of 
opacification in the L lung base concerning for aspiration 
pneumonia. She was made NPO to prevent further aspiration and 
was treated empirically with vanc/cefepime. When the patient was 
made comfort measures only, the antibiotics were stopped.

#) GI bleed.  There was a concern for GI bleed because EMS 
reported seeing coffee ground emesis when they arrived to the 
site where she had fallen. Her initial Hgb was 13.2 at ___. 
___, and upon arrival to the ___ ED (___) it had dropped 
to 11.2. A repeat Hgb on ___ was 10.9. She had no further 
emesis or melena while at ___. No further workup was performed 
as she was made comfort measures only. 

#) E. coli UTI.  A urine culture from ___ came back positive 
for >100,000 organisms/mL of E.Coli. She was treated with 
cefepime initially, but antibiotics were stopped when she was 
made comfort measures only.
  
#) GPC bacteremia.  The patient grew MRSA in ___ blood culture 
bottles from the same set from ___. She was 
initially treated with IV vancomycin, but the antibiotics were 
stopped when she was made comfort measures only.   

#) NSTEMI. The patient had initial Trop-T of 0.14 and a second 
Trop-T of 0.18, but there were no EKG changes consistent with 
ACS. It is likely that the troponin leak was due to demand 
ischemia in the setting of a significant Hgb drop and the stress 
of the IPH. 

Transitional Issues:
- The patient is being sent to ___. ___ for comfort care so 
that she may be closer to her family
- Code: Comfort Measures Only
- No health care proxy documentation obtained; none available in 
PCP's office or prior ___ records. Daughter ___ 
(___) is next of kin.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PR Q6H:PRN fever 
2. Glycopyrrolate 0.1 mg IV Q6H:PRN oral secretions 
3. LORazepam 0.5-2 mg IV Q4H:PRN anxiety, respiratory distress 
4. Morphine Sulfate ___ mg IV Q2H:PRN pain, air hunger 
5. Ondansetron ___ mg IV Q6H:PRN nausea/vomiting 
6. Scopolamine Patch 1 PTCH TD ONCE Duration: 72 Hours 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Intraparenchymal hemorrhage
Pneumonia
E. Coli UTI
Gram positive cocci bacteremia
NSTEMI

 
Discharge Condition:
Mental status: patient is not responsive to surroundings
Laying in bed, not appearing in any acute distress
Unable to move L arm or L leg, minimal movement of R arm and R 
leg

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital for an intraparenchymal 
hemorrhage. While here, neurosurgery decided that surgery would 
not be helpful or change your prognosis. Initially ___ were made 
comfort measures only, and ___ were extubated. ___ did better 
than expected and your neurological exam improved so ___ 
remained DNR/DNI, but the decision to make ___ comfort measures 
only was reversed. ___ were then transferred to a general 
medicine team. Neurology was consulted and offered aggressive 
treatment; however, they informed ___ that the aggressive 
treatment was unlikely to change the poor prognosis. Ultimately 
your family decided to put ___ back on comfort measures only. 

___ were transferred from ___ to ___ to have comfort 
measures care closer to home.

Thank ___ for choosing ___ for your healthcare. It was a 
pleasure taking care of ___.

Sincerely,
Your ___ team
 
Followup Instructions:
___